US04418068
6-benzoyloxy-2-(4-benzoyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
A 2 g. portion of 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]-thiophene was suspended in 35 ml. of chloroform, and 3.5 g. of potassium carbonate was added. The flask was blanketed with nitrogen, and 2 mg. of 4-dimethylaminopyridine and 1.2 g. of benzoyl chloride were added. The mixture was heated in an 80° C. oil bath for 4 hours under reflux, and was then poured into a large amount of aqueous sodium chloride solution. The mixture was then extracted three times with 50 ml. portions of chloroform, and the organic layers were combined and washed with aqueous sodium chloride solution and dried over magnesium sulfate. The solution was then filtered, and hydrogen chloride gas was bubbled through it. Solvent was then removed under vacuum, leaving a gray oil, which was triturated with denatured alcohol and seeded with an authentic sample of the desired product to obtain white crystals, which were washed with diethyl ether and recrystallized from dichloromethane/ethanol to obtain 1.86 g. of the desired product, m.p. 235°-236° C.

reactant | 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]-thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C28H27NO4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium chloride | [Cl-].[Na+]
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-benzoyloxy-2-(4-benzoyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC(C2=CC=CC=C2)=O)C1 | InChI=1S/C42H35NO6S.ClH/c44-39(29-14-18-33(19-15-29)47-27-26-43-24-8-3-9-25-43)38-36-23-22-35(49-42(46)32-12-6-2-7-13-32)28-37(36)50-40(38)30-16-20-34(21-17-30)48-41(45)31-10-4-1-5-11-31;/h1-2,4-7,10-23,28H,3,8-9,24-27H2;1H
